US06608072B1
b) 4-Fluoro-2-(2-methylthio-4-pyrimidinyl)acetophenone
n-BuLi (10 ml of a 1.6 M solution in hexane; 12 mmol) is added at −78° C. to a solution of diisopropylamine (2.48 ml; 17 mmol) in THF (15 ml) and stirred for 5 min. 4-Methyl-2-(methylthio)pyrimidine (2 g; 14.5 mmol) dissolved in THF (2 ml) is added dropwise and stirred for 30 min at −78 C. 4-Fluoro-N-methoxy-N-methylbenzamide (2.66 g; 14.5 mmol) is dissolved in THF (3 ml) and added slowly to the reaction mixture. The mixture is warmed to r.t. within 45 min. and poured on water and extracted with ethyl acetate three times. The combined organic phases are dried over Na2SO4 and evaporated to dryness to yield 2.5 g (65%) of yellow crystals after recrystallisation from tert.butyl methyl ether/hexane.

reactant | n-BuLi | [Li]CCCC
reactant | diisopropylamine | 17 mmol, 2.48 ml | C(C)(C)NC(C)C | C6H15N
reactant | 4-Methyl-2-(methylthio)pyrimidine | 14.5 mmol, 2 g | CC1=NC(=NC=C1)SC | C6H8N2S
reactant | 4-Fluoro-N-methoxy-N-methylbenzamide | 14.5 mmol, 2.66 g | FC1=CC=C(C(=O)N(C)OC)C=C1 | C9H10FNO2
reactant | THF | 15 ml | C1CCOC1 | C4H8O
reactant | THF | 2 ml | C1CCOC1 | C4H8O
reactant | THF | 3 ml | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
product | 4-Fluoro-2-(2-methylthio-4-pyrimidinyl)acetophenone | 2.5 g, 65% | FC1(NC(=NC=C1)SC)CC(=O)C1=CC=CC=C1 | C13H13FN2OS
